US09062076B2
To a solution of 1H-benzo[d]imidazol-2(3H)-one (268 mg, 2 mmol) in DMF (10 mL) at 0° C. was added 60% oily sodium hydride (88 mg, 2.2 mmol). When hydrogen evolution had ceased, a solution of (E)-3-(3,4-dimethoxyphenyl)acryloyl chloride (240 mg, 0.75 mmol) in DMF (3 mL) was added and the reaction mixture allowed to warm to room temperature and stirred for 1 hour. The reaction was quenched by addition of 1N hydrochloric acid, and extracted with DCM. The combined organic phases were washed with brine and dried over sodium sulfate. After concentration under reduced pressure, the residue was purified by flash column (hexane-EtOAc, 25:10) to give (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-1H-benzo[d]imidazol-2(3H)-one (240 mg, 37%). LC-MS (ES-API); rt 9.02 min; m/z calculated for C18H16N2O4 [M+H]+ 325.1, found 325.0 and 347.0 ([M+Na]+).

reactant | 1H-benzo[d]imidazol-2(3H)-one | 2 mmol, 268 mg | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | sodium hydride | 2.2 mmol, 88 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (E)-3-(3,4-dimethoxyphenyl)acryloyl chloride | 0.75 mmol, 240 mg | COC=1C=C(C=CC1OC)/C=C/C(=O)Cl | C11H11ClO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (E)-1-(3-(3,4-dimethoxyphenyl)acryloyl)-1H-benzo[d]imidazol-2(3H)-one | 240 mg, 37% | COC=1C=C(C=CC1OC)/C=C/C(=O)N1C(NC2=C1C=CC=C2)=O | C18H16N2O4
